US07977344B2
8-Bromo-N2-pentyl-9-(tetrahydro-2H-pyran-2-yl)-9H-purine-2,6-diamine
A solution of N2-pentyl-9-(tetrahydro-2H-pyran-2-yl)-9H-purine-2,6-diamine (543 mg) in dry chloroform (4.6 mL) was cooled to 0° C. and NBS (334 mg) was added. The mixture was stirred at room temperature for 10 mins. The reaction was taken up in DCM (30 mL) and was washed with water (30 mL). The organics were separated, dried using a hydrophobic frit and concentrated in vacuo to give the title compound as a viscous brown residue (627 mg) which was used crude in the next step.

reactant | N2-pentyl-9-(tetrahydro-2H-pyran-2-yl)-9H-purine-2,6-diamine | 543 mg | C(CCCC)NC1=NC(=C2N=CN(C2=N1)C1OCCCC1)N | C15H24N6O
reactant | NBS | 334 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | chloroform | 4.6 mL | C(Cl)(Cl)Cl | CHCl3
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 8-Bromo-N2-pentyl-9-(tetrahydro-2H-pyran-2-yl)-9H-purine-2,6-diamine | BrC=1N(C2=NC(=NC(=C2N1)N)NCCCCC)C1OCCCC1 | C15H23BrN6O
